US05607937
Boc-3-cyano-(L)-phenylalanine
6 g (26.5 mmol) of 3-cyano-(L)-phenylalanine hydrochloride and 9.1 ml (53.2 mmol) of N-ethyldiisopropylamine was suspended in 17 ml of water. To this suspension was added a solution of 7.2 g (29.2 mmol) of 2-(Boc-oxyimino)-2-phenylacetonitrile in 20 ml of dioxane and stirring continued for 16 hours at room temperature. After subsequent addition of 50 ml of water, the solution was extracted with 50 ml of ethyl acetate, the organic phase separated and the pH of the aqueous phase adjusted to 3 with dilute hydrochloric acid. After 3 extractions with 100 ml each of ethyl acetate, the collected organic solutions were washed with saturated sodium chloride solution, dried over magnesium sulfate and the solvent was evaporated under reduced pressure.

reactant | 3-cyano-(L)-phenylalanine hydrochloride | 26.5 mmol, 6 g | Cl.C(#N)C=1C=C(C[C@H](N)C(=O)O)C=CC1
reactant | N-ethyldiisopropylamine | 53.2 mmol, 9.1 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-(Boc-oxyimino)-2-phenylacetonitrile | 29.2 mmol, 7.2 g | C(=O)(OC(C)(C)C)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | water | 17 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | Boc-3-cyano-(L)-phenylalanine | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC(=CC=C1)C#N)C(=O)O | C15H18N2O4
